Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.89974728164
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7][H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.55465854324
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([O:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([O:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[H:4],2.91013861386
[C:1]#[C:2][C:3][O:7][H:5].[O:4]=[C:6]([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([O:7])([H:8])[H:9],-0.997080422989
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[H:5],2.54051744495
[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.59236383681
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])([C:4][C:10]([H:11])([H:12])[H:13])[H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.75233116741
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.75201065997
[C:6][H:7].[O:1]=[C:2]=[C:3][O:4][C:5]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-7.413511067589999
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],1.86821754021
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],3.04897541021
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],0.974218403137
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],3.73544459708
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.5546976351
[H:1][C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](#[C:7][C:9]([H:10])[H:11])[H:8].[H:1][C:2][C:4]([H:5])([H:6])[H:12],2.54873008027
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13].[H:4],1.81014195513
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[O:9][C:10][H:11],5.379392212969999
[H:1][C:2][O:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.26868133357
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],4.1746193768
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:8],1.73999298037
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11],-3.87271500681
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-1.1345941646700002
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-3.75380334847
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:10][H:11].[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.6407442506
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]#[C:10][H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.99608314126
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],4.74546671476
[C:1]=[C:2]([H:3])[C:4](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]1[C:2]([H:3])=[C:4]1[C:7]([H:8])([H:9])[H:10].[C:5]=[O:6],0.0479036190195
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[H:14].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],2.8875552892000003
